US09278973B2
Step 3. 3-(2-Chlorophenyl)-1H-1,2,4-triazol-5-amine
A solution of 2-(2-chlorobenzoyl)hydrazinecarboximidamide (3 g, 14.1 mmol) in water (10 mL) was stirred for 4 h at 100° C. After the reaction was completed, the solids were collected by filtration, and washed with H2O (3×5 ml). This resulted in 1.5 g (55%) of 3-(2-chlorophenyl)-1H-1,2,4-triazol-5-amine as a yellow oil.

reactant | 2-(2-chlorobenzoyl)hydrazinecarboximidamide | 14.1 mmol, 3 g | ClC1=C(C(=O)NNC(N)=N)C=CC=C1 | C8H9ClN4O
solvent | water | 10 mL | O | H2O
product | 3-(2-Chlorophenyl)-1H-1,2,4-triazol-5-amine | ClC1=C(C=CC=C1)C1=NNC(=N1)N | C8H7ClN4
